datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[N-:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.[H:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C[NH:10][N:61](C)C>>C[NH+:10]([C:20]1(C2=CC=CC=C2)[S:31]CC[S:41]1)[N:61](C)C 10=20
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[N:10]1=[CH:11][CH:12]=[C:13]([NH2:14])[CH:62]=[CH:61]1>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[NH2+:14])[CH:62]=[CH:61]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)C[C:11](C)=[CH2:10].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].CC(C)(C)C[C+:11](C)[CH2:10][S:20]C(F)(F)F 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1CCCC[C:11]1=[N+:12]1CCCC1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].Cl[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](Cl)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"C[C:22]([CH:21]=[CH2:20])=[O:23].C[O:14][C:13]1=[CH:12][CH:11]=[CH:10][CH:62]=[CH:61]1>>C[O+:14]=[C:13]1[CH:12]=[CH:11][CH:10]([CH2:20][CH:21]=[C:22](C)[O-:23])[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CC[O:92][C:71]([CH:10]([C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[Si](CC)(CC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CC[Si](CC)(CC)[C:13]1=[O+:14][CH:10]([CH:20]([N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.O[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>O[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[C:20]([C:31]2=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
C[O:64][C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[O:64][C:63]1=[CH:62][CH:61]=[N+:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:71]=[CH:72]1 10=20
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([CH:10]([C:11]#[N:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20;12=11,12"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.C[N:10](C)[NH:61][CH:62]=[O:63]>>C[N+:10](C)([C:20]1(C)CC[C:22]([O-:23])=[CH:21]1)[NH:61][CH:62]=[O:63] 10=20;20,21=21,22;22,23=23"
